US07625914B2
1 g (2.5 mmol) of tert-butyl {3-[5-(2,4-dioxothiazolidin-5-ylidenemethyl)thiophen-2-yl]benzyl}methylcarbamate is placed in 20 ml of dioxane and 0.2 ml of acetic acid. The reaction medium is degassed and placed under 3 atm of hydrogen for 3 days. After filtration through Celite, 0.2 g (20%) of tert-butyl {3-[5-(2,4-dioxothiazolidin-5-ylmethyl)thiophen-2-yl]benzyl}methylcarbamate is obtained.

reactant | tert-butyl {3-[5-(2,4-dioxothiazolidin-5-ylidenemethyl)thiophen-2-yl]benzyl}methylcarbamate | 2.5 mmol, 1 g | O=C1SC(C(N1)=O)=CC1=CC=C(S1)C=1C=C(CCNC(OC(C)(C)C)=O)C=CC1 | C21H22N2O4S2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | tert-butyl {3-[5-(2,4-dioxothiazolidin-5-ylmethyl)thiophen-2-yl]benzyl}methylcarbamate | 0.2 g, 20% | O=C1SC(C(N1)=O)CC1=CC=C(S1)C=1C=C(CCNC(OC(C)(C)C)=O)C=CC1 | C21H24N2O4S2
